US06316177B1
5 Preparation of 6-(3-(vinylbenzyloxy)-1-propyloxy)purine (Mixture of Meta and Para Isomers)
Potassium tert-butoxide (35.64 g, 0.317 mol) was added to a stirred solution of 3-(vinylbenzyloxy)-1-propanol (mixture of meta and para isomers) (30.51 g, 0.158 mol) in dry tetrahydrofuran (300 ml) under an atmosphere of nitrogen. After 15 min 6-chloropurine (24.55 g, 0.159 mol) was added, and, after stirring for 15 min at room temperature, the reaction mixture was heated at reflux overnight. The reaction mixture was allowed to cool and then the solvent was removed in vacuo. First water (600 ml) then concentrated hydrochloric acid (17 ml) were added to the residue and stirred for 15 min. The acidic mixture was neutralized with saturated sodium hydrogen carbonate solution. After stirring for 15 min the solid was removed by filtration from the neutral suspension and dried. The solid was extracted with hot tetrahydrofuran (400 ml) for 2 hr and then the undissolved material was removed by filtration whilst hot. The filtrate was concentrated in vacuo and the residue (40.5 g of a yellow solid) recrystallized from tetrahydrofuran. This gave the title compound (27.78 g, 89.6 mmol, 56%) as a yellow solid.

reactant | Potassium tert-butoxide | 0.317 mol, 35.64 g | CC(C)([O-])C.[K+]
reactant | 3-(vinylbenzyloxy)-1-propanol | 0.158 mol, 30.51 g | C(=C)C(C1=CC=CC=C1)OCCCO | C12H16O2
reactant | 6-chloropurine | 0.159 mol, 24.55 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 6-(3-(vinylbenzyloxy)-1-propyloxy)purine | 89.6 mmol, 27.78 g, 56% | C(=C)C(C1=CC=CC=C1)OCCCOC1=C2NC=NC2=NC=N1 | C17H18N4O2
